US05623073
STEP A: 2-amino-1-(2-piperidinoethyl)-3-(2-thenoylmethyl) benzimidazolium bromide
An ethereal solution of 2-bromoacetylthiophene (obtained by brominating 2-acetylthiophene (1.9 g, 15 mmol) with 0.8 ml (15 mmol) of bromine in 10 ml of dioxane and 15 ml of ether) is added to a hot solution of 2-amino-1-(2-piperidinoethyl)benzimidazole (2.44 g; 10 mmol) in 100 ml of acetone. Stir and maintain at room temperature. The next day, the title compound precipitate is collected by means of filtration and washed with acetone and with ether.

reactant | 2-bromoacetylthiophene | 15 mmol, 0.8 ml, 1.9 g | BrCC(=O)C=1SC=CC1 | C6H5BrOS
reactant | bromine | 15 mmol | BrBr | Br2
reactant | 2-amino-1-(2-piperidinoethyl)benzimidazole | 10 mmol, 2.44 g | NC1=NC2=C(N1CCN1CCCCC1)C=CC=C2 | C14H20N4
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-amino-1-(2-piperidinoethyl)-3-(2-thenoylmethyl) benzimidazolium bromide | [Br-].NC=1N(C2=C([N+]1CCN1CCCCC1)C=CC=C2)CC(C2=CC=CS2)=O | InChI=1S/C20H24N4OS.BrH/c21-20-23(13-12-22-10-4-1-5-11-22)16-7-2-3-8-17(16)24(20)15-18(25)19-9-6-14-26-19;/h2-3,6-9,14,21H,1,4-5,10-13,15H2;1H
